US05102897
2-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenoxy]ethanethioamide
Hydrogen sulfide gas is bubbled for 30 minutes into a solution of [3,5-bis(1,1-dimethylethyl)-4-hydroxyphenoxy] acetonitrile (1.16 g, 4.44 mmol) and triethylamine (0.68 mL, 4.88 mmol) in pyridine (4.5 mL). The reaction mixture is diluted with ether and washed once with dilute aqueous hydrochloric acid, three times with water, and once with brine. The organic phase is dried over magnesium sulfate and filtered. Argon is bubbled through the organic solution to remove residual hydrogen sulfide. The organic phase is concentrated in vacuo and the solid residue is crystallized from ether/hexane yielding 1.1 g (82%) of white crystals of 2-[3,5-bis((1,1-dimethylethyl)-4-hydroxyphenoxy]-ethanethioamide; mp 163.0°-164.0° C.

reactant | Hydrogen sulfide | S | H2S
reactant | [3,5-bis(1,1-dimethylethyl)-4-hydroxyphenoxy] acetonitrile | 4.44 mmol, 1.16 g | CC(C)(C)C=1C=C(OCC#N)C=C(C1O)C(C)(C)C | C16H23NO2
reactant | triethylamine | 4.88 mmol, 0.68 mL | C(C)N(CC)CC | C6H15N
solvent | pyridine | 4.5 mL | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 2-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenoxy]ethanethioamide | CC(C)(C)C=1C=C(OCC(N)=S)C=C(C1O)C(C)(C)C | C16H25NO2S
